US08871756B2
3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-propionitrile
The title compound was prepared in analogy to ethyl 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoate in Example 95 in Scheme 46 by using 4-(4-chloro-6-ethylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and acrylonitrile.

reactant | ethyl 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoate | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCC(=O)OCC)CC)=O | C25H28N2O4S
reactant | 4-(4-chloro-6-ethylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)CC)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O2S
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-propionitrile | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCC#N)C)=O | C22H21N3O2S
